US06936602B1
To a solution of ethyl 2-methyldioxolan-2-ylacetate (2.0 g) in methanol (69 ml) was added 1N sodium hydroxide solution (23 ml), and the mixture was stirred at room temperature overnight. Then, the mixture was neutralized with 1N hydrochloric acid, and the solvent was evaporated under reduced pressure. To the mixture was added ethyl acetate, and the mixture was dried with magnesium sulfate. The solvent was evaporated under reduced pressure to give 2-methyldioxolan-2-ylacetic acid (1.63 g) as colorless

reactant | ethyl 2-methyldioxolan-2-ylacetate | 2.0 g | CC1(OCCO1)CC(=O)OCC | C8H14O4
reactant | sodium hydroxide | 1N, 23 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 69 ml | CO | CH4O
product | 2-methyldioxolan-2-ylacetic acid | 1.63 g | CC1(OCCO1)CC(=O)O | C6H10O4
